US20010027196A1
(RS)-2-Amino-4-(5-methyl-furan-2-yl)-6-( 1-pyridin-2-yl-ethoxy)-pyrimidine-5-carbonitrile
From 2-amino-4-(5-methyl-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile, (RS)-alpha-methyl-2-pyridinemethanol and DBU in DME. ES-MS m/e (%): 344 (M+Na+, 20), 322 (M+H+, 100).

reactant | 2-amino-4-(5-methyl-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC(=CC1)C)C#N)SC | C11H10N4OS
reactant | (RS)-alpha-methyl-2-pyridinemethanol | CC(O)C1=NC=CC=C1 | C7H9NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | (RS)-2-Amino-4-(5-methyl-furan-2-yl)-6-( 1-pyridin-2-yl-ethoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC(=CC1)C)C#N)OC(C)C1=NC=CC=C1 | C17H15N5O2
